US07138533B2
8-(3-Chloropropanoyl)-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one
Using 1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one (10.0 g) and 3-chloropropanoyl chloride (6.06 ml) according to the same method as that of Reference Example 1, the title compound (12.0 g) was obtained as colorless crystals having a melting point of 154 to 155° C.

reactant | 1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one | 10.0 g | C1CN2C(CCC3=CC=CC1=C23)=O | C11H11NO
reactant | 3-chloropropanoyl chloride | 6.06 ml | ClCCC(=O)Cl | C3H4Cl2O
product | 8-(3-Chloropropanoyl)-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one | 12.0 g | ClCCC(=O)C=1C=C2CCC(N3C2=C(C1)CC3)=O | C14H14ClNO2
